US04942176
3-(4-Benzoylanilino)propionic acid
1.97 g of 4-aminobenzophenone (0.01 mole) and 1.44 g of acrylic acid (0.02 mole) are dissolved in 10 ml of glacial acetic acid and boiled under reflux for 2 days. The solution is evaporated to dryness in vacuo, and the residue is redissolved in 2 N sodium hydroxide solution, and the solution is extracted several times with diethyl ether. The aqueous solution is adjusted to pH 4-5 with 2 N HCl, and the precipitate is filtered off with suction and washed with water.

reactant | 4-aminobenzophenone | 0.01 mole, 1.97 g | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
reactant | acrylic acid | 0.02 mole, 1.44 g | C(C=C)(=O)O | C3H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Benzoylanilino)propionic acid | C(C1=CC=CC=C1)(=O)C1=CC=C(NCCC(=O)O)C=C1 | C16H15NO3
